US05201936
Synthesis of methyl 3-acetonylmercaptopropionate
90.1 g (0.5 mol) of 2,5-dihydroxy-2,5-dimethyl-1,4-dithiane are initially introduced into 100 ml of absolute tetrahydrofuran. 1.0 g of piperidine is then added, and 94.7 g (0.945 mol) of methyl acrylate are added dropwise at 10°-15° C, during which process another two portions of 0.5 g of piperidine are added at the same time. The mixture is subsequently stirred for 60 minutes at 60° C. It is allowed to cool and introduced into 500 ml of water.

reactant | 2,5-dihydroxy-2,5-dimethyl-1,4-dithiane | 0.5 mol, 90.1 g | OC1(SCC(SC1)(C)O)C | C6H12O2S2
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | piperidine | 1.0 g | N1CCCCC1 | C5H11N
reactant | methyl acrylate | 0.945 mol, 94.7 g | C(C=C)(=O)OC | C4H6O2
reactant | piperidine | 0.5 g | N1CCCCC1 | C5H11N
solvent | water | 500 ml | O | H2O
product | methyl 3-acetonylmercaptopropionate | C(C(=O)C)SCCC(=O)OC | C7H12O3S
